2106-05-07 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2106-5-6**] 10:36 AM
 STOOL CULTURE - At [**2106-5-6**] 04:14 PM
   [**2106-5-6**]:
   - episode of hypotension (BP 51/32) while sleeping. Woke him up,
   mentating fine, recheck was 66/42. Then later BP 53/39, mentating fine,
   bolus 250cc with good effect.
   - Abdominal U/S: no focal liver lesion, no biliary dilitation, multiple
   stones in lumen of gallbladder, spleen enlarged at 16cm, moderate
   amount of ascites, on doppler flow seen in portal veins
   - Abdominal Film: no free air, no evidence of obstruction
   - Stool studies sent
   - nutrition consult still pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2106-5-7**] 02:00 AM
   Ceftriaxone - [**2106-5-7**] 04:21 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-7**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 93 (76 - 108) bpm
   BP: 65/34(40) {43/23(27) - 100/74(76)} mmHg
   RR: 15 (10 - 17) insp/min
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,009 mL
                                                                    653 mL
   PO:
                                                                  1,140 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,169 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,009 mL
                                                                    653 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ///32/
   Physical Examination
   Labs / Radiology
   64 K/uL
   13.7 g/dL
   112 mg/dL
   3.6 mg/dL
   32 mEq/L
   3.1 mEq/L
   10 mg/dL
   101 mEq/L
   143 mEq/L
   46.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2106-5-6**]  01:38 AM
                             [**2106-5-6**]  05:33 PM
                             [**2106-5-7**]  01:33 AM
   WBC
   9.0
   7.5
   Hct
   37.7
   46.2
   Plt
   54
   64
   Cr
   5.2
   2.7
   3.6
   TropT
   0.24
   0.21
   0.23
   Glucose
   152
   105
   112
   Other labs: PT / PTT / INR:19.2/41.8/1.8, CK / CKMB /
   Troponin-T:40/3/0.23, ALT / AST:14/25, Alk Phos / T Bili:147/1.6,
   Lactic Acid:3.8 mmol/L, LDH:320 IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.0 mg/dL
   Assessment and Plan
   74-year-old gentleman with a pmhx. of ESRD on HD (last dialysis [**5-6**]),
   cryptogenic cirrhosis and ascites requiring paracentesis, and PEs who
   is admitted from the ED with chief complaint of weakness and
   confusion.
   .
   # HYPOTENSION: Pt is mentating well and does not produce urine. Per
   outpatient records, baseline BP is in 70's systolic. Pt is afebrile but
   does have a leukocytosis and elevated lactate which raise concern for
   sepsis. Patient more normotensive today.  Diarrhea losses probably
   larger than estimated and patient has chronic volume losses.
   - Fluid boluses based upon clinical exam and maintenance fluids to
   match losses.
   - Bolus NS for BPs<70; renal team will monitor fluid status/BP
   carefully with HD sessions
   - F/U BCx - NGTD
   - Continue flagyl/CTX for now (day #2)
   - Could check cortisol, TSH (not yet done)
   .
   # WEAKNESS/CONFUSION: Patient was brought into the ED by his partner
   who related a history of weakness and confusion for the past 3 days.
   Patient states that he has had a lack of appetite for the past few
   days. Possibilites for weakness and confusion in this patient include
   metabolic derrangements (likely from liver failure and hepatic
   encephalopathy or renal failure, though less likely as dialysis was
   yesterday), infection (high white count, increased lactate) from
   peritoneal, blood, pulmonary or biliary source. Albumin is
   significantly lower at 2.4 than it was in [**Last Name (LF) 25**], [**First Name3 (LF) **] malnutrition may
   be contributing to weakness. Lactate remains elevated but is trending
   down (now 3.8). Unifying diagnoses could include systemic amyloidosis
   (concern expressed by renal team) vs. HIV (partner is [**Name2 (NI) 14361**]
   positive, but patient has historically refused testing). Patient has
   had frequent electrolyte abnormalities, which may contribute.
   -F/U blood cultures
   -Consider diagnostic paracentesis given ascites on US if abdominal pain
   or persistent sx
   -Ammonia level low (25), and no asterixis on exam so hepatic
   encephalopthay seem unlikely.
   -Trend lactate
   - Electrolytes [**Hospital1 7**] with repletion PRN
   - Appreciate renal recs
   -Continue Abx for now
   - F/U Nutrition consult
   - Consider fat pad bx to evaluate for amyloidosis
   .
   # DIARRHEA: Patient reports voluminous diarrhea, and has a history of
   having diarrhea with up to 5 liters daily. Previously the patient's
   diarrhea was thought to be the result of ileal resection. This has been
   a chronic issue but perhaps worse recently, and likely contributes to
   weakness, hypotension and electrolyte abnormalities. C. diff negative x
   1.
   - Attempt to quantify volume of diarrhea
   - F/U other stool studies (pending)
   - Consider GI consult
   - If stool studies negative, stop antibiotics.
   - If stool studies negative, consider octreotide or tincture of opium
   # ELEVATED TROPONIN: Patient's troponins have been 0.21-0.25 (flat)
   which may be new baseline in setting of ESRD. Flat CKs suggest no
   acute/evolving process. Difficult to interpret baseline EKG, but no
   overt ST changes concerning for evolving infarct.
   -Repeat EKG
   -Consider ECHO if weakness/hypotension persist
   .
   # Thrombocytopenia: Pt's plt count today is 57 which is lower than it
   has been in the past (usually plts are around 90-100). Pt may have a
   component of splenic sequestration, given known history of portal
   hypertension sequelae (varices, ascites) and splenomegaly on US.
   - Trend plt count (up slightly today but in setting of
   hemoconcentration)
   .
   .
   # Mouth Pain
 patient with upper gum pain which for him occurs with
   some regularity probably likely due to denture malalignment.
   - consider dental consult.
   # FEN: prn IVF, replete electrolytes aggressively,  Renal Diet
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Call out to floor if not extremely hypotensive.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-5-6**] 12:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-05-08 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Spoke with Dr. [**Last Name (STitle) 3482**] re: utility of fat pad biopsy for amyloidosis.
   Briefly, he feels that amyloid is not likely secondary to ERSD, but
   that pt could have systemic amyloid of other etiology. Does not feel bx
   is urgent. Dr. [**Last Name (STitle) 3482**] does advise consulting GI re: mgmt of diarrhea as
   he feels the diarrhea is contributing to current sx and compromising
   overall care (pt unable to make it through an HD session without pause
   to use bathroom). Recommends considering contacting Dr. [**Name (NI) 2912**] (pt's
   hepatologist) as he may also have input.
   - Left message with dental service requesting advice on loose partial
   denture (no response yet)
   -Patient complaining of left shoulder pain today, reportedly after fall
   several days ago prior to admission.  Plain films obtained that showed
   distal clavicular fracture with superior displacement, subluxation of
   humeral head.  Orthopedic consult requested who recommended obtaining a
   dedicated axillary view film and sling for comfort when out of bed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2106-5-8**] 02:00 AM
   Ceftriaxone - [**2106-5-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-8**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 89 (87 - 111) bpm
   BP: 71/49(54) {60/32(42) - 93/58(137)} mmHg
   RR: 15 (15 - 22) insp/min
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,417 mL
                                                                    221 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  1,577 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,417 mL
                                                                    221 mL
   Respiratory support
   ABG: ///30/
   Physical Examination
   Gen: Comfortable
   HEENT: NC/AT, sclerae anicteric, MMM
   PULM: CTAB no rales/rhonchi/wheezes
   CVS: RRR with normal S1 and S2. No m/g/r
   Abd: Soft/NT/ND
   Ext: No c/c/e
   Labs / Radiology
   51 K/uL
   14.8 g/dL
   101 mg/dL
   4.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   14 mg/dL
   102 mEq/L
   143 mEq/L
   46.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2106-5-6**]  01:38 AM
                             [**2106-5-6**]  05:33 PM
                             [**2106-5-7**]  01:33 AM
                             [**2106-5-7**]  05:07 PM
                             [**2106-5-8**]  03:50 AM
   WBC
   9.0
   7.5
   11.0
   Hct
   37.7
   46.2
   46.2
   Plt
   54
   64
   51
   Cr
   5.2
   2.7
   3.6
   3.5
   4.5
   TropT
   0.24
   0.21
   0.23
   Glucose
   152
   105
   112
   88
   101
   Other labs: PT / PTT / INR:19.4/40.7/1.8, CK / CKMB /
   Troponin-T:40/3/0.23, ALT / AST:17/29, Alk Phos / T Bili:180/1.5,
   Lactic Acid:3.8 mmol/L, LDH:355 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   74-year-old gentleman with a pmhx. of ESRD on HD (last dialysis [**5-6**]),
   cryptogenic cirrhosis and ascites requiring paracentesis, and PEs who
   is admitted from the ED with chief complaint of weakness and
   confusion.
   .
   # HYPOTENSION: Pt is mentating well and does not produce urine. Per
   outpatient records, baseline BP is in 70's systolic. Pt is afebrile but
   does have a leukocytosis and elevated lactate which raise concern for
   sepsis. Patient more normotensive today.  Diarrhea losses probably
   larger than estimated and patient has chronic volume losses.  Per Dr.
   [**Last Name (STitle) 3482**] of nephrology, SBPs in 70s are consistent with patient
   baseline and not cause for special concern or pressors.
   - Fluid boluses based upon clinical exam and maintenance fluids to
   match losses.
   - Bolus NS for BPs<70; renal team will monitor fluid status/BP
   carefully with HD sessions
   - F/U BCx - NGTD
   - Stop flagyl/CTX
   - f/u  cortisol, TSH
   .
   # WEAKNESS/CONFUSION: Patient was brought into the ED by his partner
   who related a history of weakness and confusion for the past 3 days.
   Patient states that he has had a lack of appetite for the past few
   days. Possibilites for weakness and confusion in this patient include
   metabolic derangements (likely from liver failure and hepatic
   encephalopathy or renal failure, though less likely as dialysis was
   yesterday), infection (high white count, increased lactate) from
   peritoneal, blood, pulmonary or biliary source. Albumin is
   significantly lower at 2.4 than it was in [**Last Name (LF) 25**], [**First Name3 (LF) **] malnutrition may
   be contributing to weakness. Lactate remains elevated but is trending
   down (now 3.8). Unifying diagnoses could include systemic amyloidosis
   (concern expressed by renal team) vs. HIV (partner is [**Name2 (NI) 14361**]
   positive, but patient has historically refused testing). Patient has
   had frequent electrolyte abnormalities, which may contribute.
   -F/U blood cultures  (NGTD)
   -Consider diagnostic paracentesis given ascites on US if abdominal pain
   or persistent sx
   -Ammonia level low (25), and no asterixis on exam so hepatic
   encephalopthay seem unlikely.
   -Trend lactate
   - Electrolytes [**Hospital1 7**] with repletion PRN
   - Appreciate renal recs
   - F/U Nutrition consult
   - Consider fat pad bx to evaluate for amyloidosis
   .
   # DIARRHEA: Patient reports voluminous diarrhea, and has a history of
   having diarrhea with up to 5 liters daily. Previously the patient's
   diarrhea was thought to be the result of ileal resection. This has been
   a chronic issue but perhaps worse recently, and likely contributes to
   weakness, hypotension and electrolyte abnormalities. C. diff negative x
   1.
   - Attempt to quantify volume of diarrhea
   - resend other stool studies (pending)
   - Consider GI consult
   - If stool studies negative, stop antibiotics.
   - If stool studies negative, consider octreotide or tincture of opium
   # ELEVATED TROPONIN: Patient's troponins have been 0.21-0.25 (flat)
   which may be new baseline in setting of ESRD. Flat CKs suggest no
   acute/evolving process. Difficult to interpret baseline EKG, but no
   overt ST changes concerning for evolving infarct.
   .
   # Thrombocytopenia: Pt's plt count today is 51 which is lower than it
   has been in the past (usually plts are around 90-100). Pt may have a
   component of splenic sequestration, given known history of portal
   hypertension sequelae (varices, ascites) and splenomegaly on US.
   - Trend plt count (down slightly today)
   .
   # Mouth Pain
 patient with upper gum pain which for him occurs with
   some regularity probably likely due to denture malalignment.
   - Message left with dental consult.
   #ESRD. Plan for HD today.
   # FEN: prn IVF, replete electrolytes aggressively,  Renal Diet
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Call out to floor if not extremely hypotensive.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-5-8**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-05-09 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2106-5-8**]:
   - Dental recs: Take out partial dentures permanently until mouth heals,
   or use only with meals if needed. Continue Orabase paste for mouth
   pain. Consider Peridex (sp?) mouth rinse if lesions develop
   (antimicrobial).
   - Called out to floor, got a bed, but rejected by floor team based on
   perceived nursing concern over SBPs in 60s-70s (patient was low to this
   range post-HD). So back in unit.
   - Tachycardic to 110s-120s post-HD, came down with 250 cc bolus of IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-5-8**] 04:00 AM
   Metronidazole - [**2106-5-8**] 09:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-9**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 95 (84 - 123) bpm
   BP: 72/45(51) {53/17(33) - 196/151(155)} mmHg
   RR: 17 (12 - 23) insp/min
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,205 mL
                                                                    231 mL
   PO:
                                                                    520 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    685 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,205 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ///34/
   Physical Examination
   Gen: Comfortable
   HEENT: NC/AT, sclerae anicteric, MMM
   PULM: CTAB no rales/rhonchi/wheezes
   CVS: RRR with normal S1 and S2. No m/g/r
   Abd: Soft/NT/ND
   Ext: No c/c/e, continued shoulder pain
   Labs / Radiology
   47 K/uL
   13.8 g/dL
   90 mg/dL
   3.6 mg/dL
   34 mEq/L
   3.9 mEq/L
   9 mg/dL
   103 mEq/L
   145 mEq/L
   45.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2106-5-6**]  01:38 AM
                             [**2106-5-6**]  05:33 PM
                             [**2106-5-7**]  01:33 AM
                             [**2106-5-7**]  05:07 PM
                             [**2106-5-8**]  03:50 AM
                             [**2106-5-9**]  04:02 AM
   WBC
   9.0
   7.5
   11.0
   10.2
   Hct
   37.7
   46.2
   46.2
   45.6
   Plt
   54
   64
   51
   47
   Cr
   5.2
   2.7
   3.6
   3.5
   4.5
   3.6
   TropT
   0.24
   0.21
   0.23
   Glucose
   152
   105
   112
   88
   101
   90
   Other labs: PT / PTT / INR:22.3/40.7/2.1, CK / CKMB /
   Troponin-T:40/3/0.23, ALT / AST:14/23, Alk Phos / T Bili:180/1.3,
   Differential-Neuts:70.0 %, Lymph:24.6 %, Mono:4.8 %, Eos:0.4 %, Lactic
   Acid:3.8 mmol/L, LDH:355 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   74-year-old gentleman with a pmhx. of ESRD on HD (last dialysis [**5-6**]),
   cryptogenic cirrhosis and ascites requiring paracentesis, and PEs who
   is admitted from the ED with chief complaint of weakness and
   confusion.
   .
   # HYPOTENSION: Pt is mentating well and does not produce urine. Per
   outpatient records, baseline BP is in 70's systolic. Pt is afebrile but
   does have a leukocytosis.  Elevated lactate which raise concern for
   sepsis but has normalized. Patient more hypotensive after HD and unable
   to be called out, but continues to mentate well.  Responeded to 250 cc
   bolus..  Diarrhea losses probably larger than estimated and patient has
   chronic volume losses.  Per Dr. [**Last Name (STitle) 3482**] of nephrology, SBPs in 70s are
   consistent with patient
s baseline and not cause for special concern or
   pressors. Cortisol at 3:00 AM = 22.
   - Fluid boluses based upon clinical exam and maintenance fluids to
   match losses.
   - Bolus NS for BPs<70; renal team will monitor fluid status/BP
   carefully with HD sessions
   - F/U BCx - NGTD
   - Off Abx
   - stopping midodrine today as no change in abx
   .
   # WEAKNESS/CONFUSION: Patient was brought into the ED by his partner
   who related a history of weakness and confusion for the past 3 days.
   Patient states that he has had a lack of appetite for the past few
   days. Possibilites for weakness and confusion in this patient include
   metabolic derangements (likely from liver failure and hepatic
   encephalopathy or renal failure, though less likely as dialysis was
   yesterday), infection (high white count, increased lactate) from
   peritoneal, blood, pulmonary or biliary source. Albumin is
   significantly lower at 2.4 than it was in [**Last Name (LF) 25**], [**First Name3 (LF) **] malnutrition may
   be contributing to weakness. Unifying diagnoses could include systemic
   amyloidosis (concern expressed by renal team) vs. HIV (partner is
   [**Name2 (NI) 14361**] positive, but patient has historically refused testing).
   Patient has had frequent electrolyte abnormalities, which may
   contribute.
   -F/U blood cultures  (NGTD)
   -Ammonia level low (25), and no asterixis on exam so hepatic
   encephalopthay seem unlikely.
   - Electrolytes [**Hospital1 7**] with repletion PRN
   - Appreciate renal recs
   - F/U Nutrition recs
   - Fat pad bx to evaluate for amyloidosis on hold for now
   .
   # DIARRHEA: Patient reports voluminous diarrhea, and has a history of
   having diarrhea with up to 5 liters daily. Previously the patient's
   diarrhea was thought to be the result of ileal resection. This has been
   a chronic issue but perhaps worse recently, and likely contributes to
   weakness, hypotension and electrolyte abnormalities. C. diff negative x
   2. Still having multiple BM per day.
   - Attempt to quantify volume of diarrhea
   - F/U stool studies (pending)
   - Consider GI consult for [**Last Name (un) **] with bxs once infectious workup negative
   - If stool studies negative, consider octreotide or tincture of opium
   - restart loperamide today
   # ELEVATED TROPONIN: Patient's troponins have been 0.21-0.25 (flat)
   which may be new baseline in setting of ESRD. Flat CKs suggest no
   acute/evolving process. Difficult to interpret baseline EKG, but no
   overt ST changes concerning for evolving infarct.
   # Clavicle fracture: Sling for comfort per ortho recs. Activity as
   tolerated. Pain control appropriate at this time
   .
   # Thrombocytopenia: Pt's plt count today is 47 from 51 which is lower
   than it has been in the past (usually plts are around 90-100). Pt may
   have a component of splenic sequestration, given known history of
   portal hypertension sequelae (varices, ascites) and splenomegaly on US.
   - Trend plt count (down slightly today)
   .
   # Mouth Pain
 patient with upper gum pain which for him occurs with
   some regularity probably likely due to denture malalignment.
   - Keep dentures out when possible per dental recs
   - Orabase PRN for mouth pain
   - Consider Peridex rinse if lesions develop (antimicrobial) per dental
   recs
   #ESRD. Plan for HD Tuesday, follow up renal recs.
   # FEN: prn IVF, replete electrolytes aggressively,  Renal Diet
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Likely stay in ICU for now given low BPs, consider call
   out as his BPs are stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-5-8**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-05-10 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Midodrine stopped due to limited BP improvement with it
   - PICC order placed due to difficulty with PIV, blood draws. Placed but
   went cephalad so re-positioned to a midline
   - BP checked on leg following midline placement - SBP 90s to 120s
   - Abdominal distension (no N/V) - KUB shows ascites and gastric air but
   limited air in small bowel or colon. Consider tap on Monday
   - Ortho rec: f/u with Dr. [**Last Name (STitle) 14430**] in 2 weeks when d/c
   - Neprology/Dr. [**Last Name (STitle) 3482**] recommends GI consult for persistent diarrhea on
   Monday, eval for SBP, consider TTE
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-5-8**] 04:00 AM
   Metronidazole - [**2106-5-8**] 09:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None.
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unchanged.
   Flowsheet Data as of  [**2106-5-10**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 107 (86 - 112) bpm
   BP: 83/57(63) {55/35(41) - 132/75(80)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,679 mL
                                                                    120 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                    599 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    150 mL
   Urine:
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                  1,679 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   Gen: Comfortable
   HEENT: NCAT
   PULM:
   CVS:
   ABD:
   EXT:
   Labs / Radiology
   47 K/uL
   13.8 g/dL
   103 mg/dL
   4.0 mg/dL
   32 mEq/L
   3.4 mEq/L
   11 mg/dL
   100 mEq/L
   142 mEq/L
   45.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2106-5-6**]  01:38 AM
                             [**2106-5-6**]  05:33 PM
                             [**2106-5-7**]  01:33 AM
                             [**2106-5-7**]  05:07 PM
                             [**2106-5-8**]  03:50 AM
                             [**2106-5-9**]  04:02 AM
                             [**2106-5-9**]  03:00 PM
   WBC
   9.0
   7.5
   11.0
   10.2
   Hct
   37.7
   46.2
   46.2
   45.6
   Plt
   54
   64
   51
   47
   Cr
   5.2
   2.7
   3.6
   3.5
   4.5
   3.6
   4.0
   TropT
   0.24
   0.21
   0.23
   Glucose
   152
   105
   112
   88
   101
   90
   103
   Other labs: PT / PTT / INR:22.3/40.7/2.1, CK / CKMB /
   Troponin-T:40/3/0.23, ALT / AST:14/23, Alk Phos / T Bili:180/1.3,
   Differential-Neuts:70.0 %, Lymph:24.6 %, Mono:4.8 %, Eos:0.4 %, Lactic
   Acid:3.8 mmol/L, LDH:355 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   74-year-old gentleman with a pmhx. of ESRD on HD (last dialysis [**5-6**]),
   cryptogenic cirrhosis and ascites requiring paracentesis, and PEs who
   is admitted from the ED with chief complaint of weakness and
   confusion.
   .
   # HYPOTENSION: Pt is mentating well and does not produce urine. Per
   outpatient records, baseline BP is in 70's systolic. Pt is afebrile but
   does have a leukocytosis.  Elevated lactate which raised concern for
   sepsis but has normalized. Patient more hypotensive after HD and unable
   to be called out, but continues to mentate well.  Responded to 250 cc
   bolus..  Diarrhea losses probably larger than estimated and patient has
   chronic volume losses.  Per Dr. [**Last Name (STitle) 3482**] of nephrology, SBPs in 70s are
   consistent with patient
s baseline and not cause for special concern or
   pressors. Cortisol at 3:00 AM = 22.
   - Fluid boluses based upon clinical exam and maintenance fluids to
   match losses.
   - Bolus NS for BPs<70; renal team will monitor fluid status/BP
   carefully with HD sessions
   - F/U BCx - NGTD
   - Off Abx without change
   - stopped midodrine yesterday as no change in abx
   .
   # WEAKNESS/CONFUSION: Patient was brought into the ED by his partner
   who related a history of weakness and confusion for the past 3 days.
   Patient states that he has had a lack of appetite for the past few
   days. Possibilites for weakness and confusion in this patient include
   metabolic derangements (likely from liver failure and hepatic
   encephalopathy or renal failure, though less likely as dialysis was
   yesterday), infection (high white count, increased lactate) from
   peritoneal, blood, pulmonary or biliary source. Albumin is
   significantly lower at 2.4 than it was in [**Last Name (LF) 25**], [**First Name3 (LF) **] malnutrition may
   be contributing to weakness. Unifying diagnoses could include systemic
   amyloidosis (concern expressed by renal team) vs. HIV (partner is
   [**Name2 (NI) 14361**] positive, but patient has historically refused testing).
   Patient has had frequent electrolyte abnormalities, which may
   contribute.
   -F/U blood cultures  (NGTD)
   -Ammonia level low (25), and no asterixis on exam so hepatic
   encephalopthay seem unlikely.
   - Electrolytes [**Hospital1 7**] with repletion PRN
   - Appreciate renal recs
   - F/U Nutrition recs
   - Fat pad bx to evaluate for amyloidosis on hold for now
   .
   # DIARRHEA: Patient reports voluminous diarrhea, and has a history of
   having diarrhea with up to 5 liters daily. Previously the patient's
   diarrhea was thought to be the result of ileal resection. This has been
   a chronic issue but perhaps worse recently, and likely contributes to
   weakness, hypotension and electrolyte abnormalities. C. diff negative x
   2. Still having multiple BM per day.
   - Attempt to quantify volume of diarrhea
   - F/U stool studies (pending)
   - Consider GI consult for [**Last Name (un) **] with bxs once infectious workup negative
   - If stool studies negative, consider octreotide or tincture of opium
   - restart loperamide today
   # ELEVATED TROPONIN: Patient's troponins have been 0.21-0.25 (flat)
   which may be new baseline in setting of ESRD. Flat CKs suggest no
   acute/evolving process. Difficult to interpret baseline EKG, but no
   overt ST changes concerning for evolving infarct.
   # Clavicle fracture: Sling for comfort per ortho recs. Activity as
   tolerated. Pain control appropriate at this time
   .
   # Thrombocytopenia: Pt's plt count today is 47 from 51 which is lower
   than it has been in the past (usually plts are around 90-100). Pt may
   have a component of splenic sequestration, given known history of
   portal hypertension sequelae (varices, ascites) and splenomegaly on US.
   - Trend plt count (down slightly today)
   .
   # Mouth Pain
 patient with upper gum pain which for him occurs with
   some regularity probably likely due to denture malalignment.
   - Keep dentures out when possible per dental recs
   - Orabase PRN for mouth pain
   - Consider Peridex rinse if lesions develop (antimicrobial) per dental
   recs
   #ESRD. Plan for HD Tuesday, follow up renal recs.
   # FEN: prn IVF, replete electrolytes aggressively,  Renal Diet
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Likely stay in ICU for now given low BPs, consider call
   out as his BPs are stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-5-9**] 05:03 PM
   Midline - [**2106-5-9**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: